US08981150B2
In a three-neck flask, at 20° C. and under an inert atmosphere, are mixed ethyl 2-hydroxyvalerate (31 g; 210 mmol) and sodium methylate in solution in methanol (25% w/w) (2.2 g; 10 mmol). To this mixture, is added dimethylamine in solution in methanol (50% w/w) (37.1 g; 411 mmol) within 30 minutes. The temperature of this mixture is brought to 40° C. and maintained for 3 hours. After return of the temperature of this reaction mixture to 20° C., orthophosphoric acid is added until a pH of 5 is obtained. The salts formed are removed by filtration and the solvents are removed under reduced pressure. 2-hydroxy-N,N-dimethylhexanamide is then obtained with a purity<98% i.e. a yield of 80%.

reactant | ethyl 2-hydroxyvalerate | 210 mmol, 31 g | OC(C(=O)OCC)CCC | C7H14O3
reactant | sodium methylate | C[O-].[Na+]
reactant | methanol | 10 mmol, 2.2 g | CO | CH4O
reactant | dimethylamine | CNC | C2H7N
reactant | methanol | 411 mmol, 37.1 g | CO | CH4O
reactant | orthophosphoric acid | P(O)(O)(O)=O | H3O4P
product | 2-hydroxy-N,N-dimethylhexanamide | yield of 80% | OC(C(=O)N(C)C)CCCC | C8H17NO2
